US09102596B2
1412 g of phenol, 78.2 g of 35% hydrochloric acid, 15.2 g of dodecyl mercaptan, and 144 g of methanol were introduced to a 4-way flask of 3 liters in capacity, into which 144 g of 2-cyclohexene-1-one was dripped over 10 hours in a nitrogen ambience with the liquid temperature kept at 30 to 32° C., at the end of which the mixture was agitated for 46 hours at 30° C. After the end of reaction, aqueous sodium hydroxide solution was added to neutralize the liquid, which was then heated to distill out the methanol. Thereafter, the water layer was separated and removed and the obtained oil layer was mixed with water and methyl isobutyl ketone, after which the mixture was agitated and water-washed to separate and remove the water layer. From the obtained oil layer, the methyl isobutyl ketone and unreacted phenol were distilled out under reduced pressure and removed. Toluene was added to the residue and the separated crystal was filtered out at room temperature and then dried to obtain a crude crystal of 1,1,3-tris(4-hydroxyphenyl)cyclohexane of 95% purity (according to the high-speed liquid chromatography).

reactant | phenol | 1412 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrochloric acid | 78.2 g | Cl | ClH
reactant | dodecyl mercaptan | 15.2 g | C(CCCCCCCCCCC)S | C12H26S
reactant | 2-cyclohexene-1-one | 144 g | C1(C=CCCC1)=O | C6H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 144 g | CO | CH4O
product | 1,1,3-tris(4-hydroxyphenyl)cyclohexane | OC1=CC=C(C=C1)C1(CC(CCC1)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C24H24O3
